US06399629B1
(A) Sodium 2-(4-Nitrobenzyloxycarbonylamino)ethanesulfonate
A mixture of 2-aminoethanesulfonic acid (5.0 g) and sodium carbonate (9.4 g) in ethyl ether-water (100 mL, 1:1, v/v), at 0° C., was treated with 4-nitrobenzyl chloroformate (8.6 g). After stirring vigorously at 0° C. for 10 min and at room temperature for 15 hr, ethyl ether was added to the reaction mixture. The precipitates were collected by filtration and washed with ethyl ether to afford the title compound (9.2 g) as a white powder: 1H NMR (400 MHz, D2O) δ 2.94 (t, J=6.4 Hz, 2H), 3.39 (t, J=6.4 Hz, 2H), 5.09 (s, 2H), 7.44 (d, J=8.3 Hz, 2H), and 8.11 (d, J=8.3 Hz, 2H).

reactant | 2-aminoethanesulfonic acid | 5.0 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | sodium carbonate | 9.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-nitrobenzyl chloroformate | 8.6 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | ethyl ether water | C(C)OCC.O
product | Sodium 2-(4-Nitrobenzyloxycarbonylamino)ethanesulfonate | 9.2 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCCS(=O)(=O)[O-])C=C1.[Na+] | InChI=1S/C10H12N2O7S.Na/c13-10(11-5-6-20(16,17)18)19-7-8-1-3-9(4-2-8)12(14)15;/h1-4H,5-7H2,(H,11,13)(H,16,17,18);/q;+1/p-1
